US06710068B2
Synthesis of Ethyl Pyruvate 4-Chloro-3-Fluorophenylhydrazone
A solution of sodium nitrite (4.76 g, 0.069 mol) in water (6.3 mL) was added dropwise to an ice cooled mixture of 4-chloro-3-fluoroaniline (J. Am. Chem. Soc., 1996, 61, 5130-5133) (10.00 g, 0.069 mol), water (167 mL) and 37% hydrochloric acid (167 mL). After 20 minutes potassium acetate (9.81 g, 0.10 mol) was added, and then a solution of ethyl 2-methylacetoacetate (9.95 g, 0.069 mol), potassium acetate (9.81 g, 0.10 mol) in methanol (67 mL) was dropped while cooling on the ice bad. Reaction was stirred at 0° C. for 3 hours, then extracted with diethyl ether. Organic layer was washed with brine and dried. Removal of the solvent furnished a red oily residue that was treated with ethanol (100 mL) and stirred at room temperature overnight. The solid which formed was filtered a recrystallized from ethanol to give 5.4 g (30%) of title compound, mp 161-163° C. (from ethanol).

reactant | sodium nitrite | 0.069 mol, 4.76 g | N(=O)[O-].[Na+]
reactant | 4-chloro-3-fluoroaniline | 0.069 mol, 10.00 g | ClC1=C(C=C(N)C=C1)F | C6H5ClFN
reactant | hydrochloric acid | 167 mL | Cl | ClH
reactant | potassium acetate | 0.10 mol, 9.81 g | C(C)(=O)[O-].[K+]
reactant | ethyl 2-methylacetoacetate | 0.069 mol, 9.95 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | potassium acetate | 0.10 mol, 9.81 g | C(C)(=O)[O-].[K+]
solvent | water | 6.3 mL | O | H2O
solvent | methanol | 67 mL | CO | CH4O
solvent | water | 167 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl Pyruvate 4-Chloro-3-Fluorophenylhydrazone | 5.4 g, 30% | ClC1=C(C=C(C=C1)NN=C(C(=O)OCC)C)F | C11H12ClFN2O2
